* source RECTCARGA
X_S2    N177338 0 OUT N177614 SCHEMATIC1_S2 
V_V36         N177386 0  
+PULSE 0 1 13.33m 0.1u 0.1u 10m 20m
V_V39         N178294 0  
+PULSE 0 1 3.33m 0.1u 0.1u 10m 20m
V_V26         N177858 0  AC 1
+SIN 0 80 60 0 0 0
L_L3         N177956 N1778061  10mH  
C_C5         SALIDA OUT  {C} IC=0 TC=0,0 
R_R2         N177870 N177462  0.1 TC=0,0 
X_S4    N178152 0 N177462 SALIDA SCHEMATIC1_S4 
V_V31         N1777440 0  AC 1
+SIN 0 80 60 0 0 120
V_V34         N177188 0  
+PULSE 0 1 0 0.1u 0.1u 10m 20m
R_R3         N177884 N177614  0.1 TC=0,0 
D_D3         N177614 OUT power_Dbreak 
V_V38         N178232 0  
+PULSE 0 1 16.67m 0.1u 0.1u 10m 20m
R_R4         N1778061 N177628  0.1 TC=0,0 
X_S5    N178232 0 N177614 SALIDA SCHEMATIC1_S5 
X_S3    N177386 0 OUT N177628 SCHEMATIC1_S3 
X_S6    N178294 0 N177628 SALIDA SCHEMATIC1_S6 
V_V37         N178152 0  
+PULSE 0 1 10m 0.1u 0.1u 10m 20m
D_D6         SALIDA N177628 power_Dbreak 
D_D4         SALIDA N177614 power_Dbreak 
D_D5         N177628 OUT power_Dbreak 
D_D2         SALIDA N177462 power_Dbreak 
L_L2         N1777440 N177884  10mH  
D_D1         N177462 OUT power_Dbreak 
L_L1         N177858 N177870  10mH  
X_S1    N177188 0 OUT N177462 SCHEMATIC1_S1 
V_V33         N177956 0  AC 1
+SIN 0 80 60 0 0 240
V_V35         N177338 0  
+PULSE 0 1 6.67m 0.1u 0.1u 10m 20m
R_R_ref         0 N1790062  1  
V_Vload         N179026 0 DC 1  
X_X1         N179026 0 N1790062 OUT SALIDA ZX
.PARAM  rl=30 c=2500u

.subckt SCHEMATIC1_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1
.ends SCHEMATIC1_S2

.subckt SCHEMATIC1_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1
.ends SCHEMATIC1_S4

.subckt SCHEMATIC1_S5 1 2 3 4  
S_S5         3 4 1 2 _S5
RS_S5         1 2 1G
.MODEL         _S5 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1
.ends SCHEMATIC1_S5

.subckt SCHEMATIC1_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1
.ends SCHEMATIC1_S3

.subckt SCHEMATIC1_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1
.ends SCHEMATIC1_S6

.subckt SCHEMATIC1_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1
.ends SCHEMATIC1_S1
